US05567700
N-[2-(3,4-Dichlorophenyl)-4-[4-(2-oxo-1,3-oxazolidin-3-yl) piperidino]butyl ]-N-methylbenzamide hydrochoride
N-[2-(3,4-Dichlorophenyl)-4-oxobutyl]-N-methylbenzamide (0.823 g) in methanol (4 mL) was added to a solution of 4-(2-oxo-1,3-oxazolidin-3-yl)piperidine (0.600 g) and acetic acid (0.20 mL) in methanol (8 mL). After 5 minutes, sodium cyanoborohydride (0.220 g) in methanol (4 mL) was added in a single portion. After being stirred for 3 hours, the reaction mixture was diluted with aqueous sodium bicarbonate, stirred for 30 minutes, and extracted with dichloromethane. The organic extracts were dried, evaporated, and chromatographed, with dichloromethane:methanol (gradient 98:2, 90:10) as eluent. The resulting material was dissolved in dichloromethane, precipitated as the hydrochloride salt with ethereal hydrogen chloride, evaporated, and placed under high vacuum overnight to give the title compound as a white solid (0.88 MS: m/z=504(M+l); Analysis for C26N31Cl2N3O3.1.20 HCl: Calculated: C, 56.96; H, 5.92; N, 7.66; Found: C, 57.02; H, 6.05; N, 7.62.

reactant | N-[2-(3,4-Dichlorophenyl)-4-oxobutyl]-N-methylbenzamide | 0.823 g | ClC=1C=C(C=CC1Cl)C(CN(C(C1=CC=CC=C1)=O)C)CC=O | C18H17Cl2NO2
reactant | 4-(2-oxo-1,3-oxazolidin-3-yl)piperidine | 0.600 g | O=C1OCCN1C1CCNCC1 | C8H14N2O2
reactant | acetic acid | 0.20 mL | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 0.220 g | C(#N)[BH3-].[Na+]
solvent | methanol | 4 mL | CO | CH4O
solvent | methanol | 8 mL | CO | CH4O
solvent | methanol | 4 mL | CO | CH4O
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | N-[2-(3,4-Dichlorophenyl)-4-[4-(2-oxo-1,3-oxazolidin-3-yl) piperidino]butyl ]-N-methylbenzamide hydrochoride | Cl.ClC=1C=C(C=CC1Cl)C(CN(C(C1=CC=CC=C1)=O)C)CCN1CCC(CC1)N1C(OCC1)=O | InChI=1S/C26H31Cl2N3O3.ClH/c1-29(25(32)19-5-3-2-4-6-19)18-21(20-7-8-23(27)24(28)17-20)9-12-30-13-10-22(11-14-30)31-15-16-34-26(31)33;/h2-8,17,21-22H,9-16,18H2,1H3;1H
